US07169333B2
Perfluorobutanesulfonic acid tetrapropylammonium salt is prepared by neutralising perfluorobutanesulfonic acid and tetrapropylammonium hydroxide in aqueous solution. Tetrapropylammonium hydroxide is obtainable from Aldrich.

reactant | perfluorobutanesulfonic acid | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)O)F | C4HF9O3S
reactant | tetrapropylammonium hydroxide | [OH-].C(CC)[N+](CCC)(CCC)CCC
product | Perfluorobutanesulfonic acid tetrapropylammonium salt | C(CC)[N+](CCC)(CCC)CCC.FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F | InChI=1S/C12H28N.C4HF9O3S/c1-5-9-13(10-6-2,11-7-3)12-8-4;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h5-12H2,1-4H3;(H,14,15,16)/q+1;/p-1
